US08455488B2
Synthesis of 2-(3-benzylureidooxy)acetic acid (Compound VI-1)
To the solution of 2-(aminoxy)acetic acid 5 g (46 mmol) and triethylamine 3.17 ml (23 mmol) in dichloromethane 60 ml and tetrahydrofuran 60 ml, benzyl isocyanate 5.43 ml (44 mmol) was added and stirred at room temperature overnight. The reaction mixture was diluted with ethyl acetate 400 ml and washed with water 300 ml and brine 200 ml. The organic phase was basified with 1N-sodium hydride 60 ml. The aqueous phase was acidified with 1N-hydrochloric acid 70 ml and extracted with ethyl acetate 300 ml. The organic phase was washed with brine 200 ml and dried with magnesium sulfate and filtered. The filtrate was concentrated in vacuo and precipitated by addition of ether 50 ml and n-hexane 150 ml to obtain the title compound 3.2 g (33%).

reactant | 2-(aminoxy)acetic acid | 46 mmol, 5 g | O(N)CC(=O)O | C2H5NO3
reactant | triethylamine | 23 mmol, 3.17 ml | C(C)N(CC)CC | C6H15N
reactant | benzyl isocyanate | 44 mmol, 5.43 ml | C(C1=CC=CC=C1)N=C=O | C8H7NO
solvent | dichloromethane | 60 ml | ClCCl | CH2Cl2
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | 400 ml | C(C)(=O)OCC | C4H8O2
product | 2-(3-benzylureidooxy)acetic acid | 3.2 g, 33% | C(C1=CC=CC=C1)NC(NOCC(=O)O)=O | C10H12N2O4
